US04026887
p-Chloromethylphenylglycine wherein the amino group is protected with tert-butoxycarbonyl, is treated with isobutyl chloroformate in the presence of triethylamine. The thus obtained mixed anhydride is reacted with the triethylamine salt of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1 -azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid at 0° C. for about 4 hours. The resulting product is isolated and the amine protecting group is removed by acid hydrolysis to give 3-[(acetyloxy)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | p-Chloromethylphenylglycine | ClCC1=CC=C(C=C1)NCC(=O)O | C9H10ClNO2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1 -azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[(acetyloxy)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O)C(=O)O | C19H20ClN3O6S
